US04870078
4-(2-Sulfoethyl)-1-phenylpiperazine, inner salt (Compound 3)
A 3.25 g quantity (20 mmols) of 1-phenylpiperazine is dissolved in 10 ml of water, and a solution of 4.3 g (20 mmols) of sodium 2-bromoethanesulfonate in 10 ml of water is added dropwise thereto at room temperature with stirring. The mixture is subjected to reaction at room temperature for 1 hour and then at 70° C. overnight, and cooled. The crystals precipitated are collected by filtration and recrystallized from water-acetone.

reactant | 1-phenylpiperazine | 20 mmols | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium 2-bromoethanesulfonate | 20 mmols, 4.3 g | BrCCS(=O)(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-(2-Sulfoethyl)-1-phenylpiperazine | S(=O)(=O)(O)CCN1CCN(CC1)C1=CC=CC=C1 | C12H18N2O3S
